US07612114B2
6-{2-{Ethyl[4-(2-pyrrolidin-1-ylethoxy)benzyl]amino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine and 4-(2-pyrrolidin-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, ethyl [2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl][4-(2-pyrrolidin-1-ylethoxy)benzyl]amine (446 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (303 mg).

reactant | ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | C(C)NC1=C(C=CC=C1)C1CC2=CC=C(C=C2CC1)OC | C19H23NO
reactant | 4-(2-pyrrolidin-1-ylethoxy)benzoic acid hydrochloride | Cl.N1(CCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | ethyl [2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl][4-(2-pyrrolidin-1-ylethoxy)benzyl]amine | 446 mg | C(C)N(CC1=CC=C(C=C1)OCCN1CCCC1)C1=C(C=CC=C1)C1CC2=CC=C(C=C2CC1)OC | C32H40N2O2
product | 6-{2-{Ethyl[4-(2-pyrrolidin-1-ylethoxy)benzyl]amino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 303 mg | C(C)N(C1=C(C=CC=C1)C1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)OCCN1CCCC1 | C31H38N2O2
